US07622494B2
(1R)-6-Bromo-N-(2,3-dihydro-1H-inden-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt was prepared by separation of racemic 6-bromo-N-(2,3-dihydro-1H-inden-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine by Super critical Fluid Chromatography (hereinafter “SFC”) (Diacel AD-H, Chiral Technologies, 30% methanol, 3000 psi, 40° C., 2 mL/min, retention time: 16.6 min.) The oil obtained was converted to the HCl salt to give a white solid. 1H-NMR (DMSO-d6): δ 11.4 (s, 1H), 9.61 (s, 1H), 9.42 (s, 1H), 7.69 (s, 1H), 7.36 (d, 1H), 7.35-7.19 (m, 5H), 4.68 (t, 1H), 4.32 (m, 1H), 3.47 (dd, 1H), 3.32 (m, 3H), 2.74 (m, 1H), 2.65 (m, 1H), 2.18 (m, 2H), 2.01 (m, 1H), 1.87 (m, 1H); MS m/z 379, 381 (ES-1).

reactant | racemic 6-bromo-N-(2,3-dihydro-1H-inden-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC1CC2=CC=CC=C2C1 | C21H21BrN2
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | (1R)-6-Bromo-N-(2,3-dihydro-1H-inden-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt | Cl.BrC=1C=C2C=3CCC[C@H](C3NC2=CC1)NC1CC2=CC=CC=C2C1 | InChI=1S/C21H21BrN2.ClH/c22-15-8-9-19-18(12-15)17-6-3-7-20(21(17)24-19)23-16-10-13-4-1-2-5-14(13)11-16;/h1-2,4-5,8-9,12,16,20,23-24H,3,6-7,10-11H2;1H/t20-;/m1./s1
